2184-06-19 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-6-19**] 12:15 AM
   - hypotensive with MAPs in low 50s.  Her BP was fluid responsive and
   she received 3L of IVF.
   - Hct dropped to 26.1 from 31.  s/p 2 units PRBCs.  AM labs postponed
   by transfusion.
   - post cath check with largely stable hematoma per signout.
   - coumadin and aspirin held due to concern re: bleeding.
   S: Patient reports pain in right groin.  No CP or SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2184-6-19**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-19**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 69 (68 - 81) bpm
   BP: 98/59(69) {77/32(44) - 117/59(70)} mmHg
   RR: 22 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  1,450 mL
                                                                  1,798 mL
   PO:
                                                                    450 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                  1,000 mL
   Blood products:
   648 mL
   Total out:
                                                                    700 mL
                                                                    230 mL
   Urine:
                                                                    100 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                  1,568 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese. Appears younger than stated age
   Eyes / Conjunctiva: NCAT PERRL
   Neck: JVP flat
   Cardiovascular: RRR, S1 & S2 normal  II/VI systolic border, loudist at
   left sternal border
   Peripheral Vascular: 2+ DP and PT bilat.
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: no c/c/e. wwp.  Right groin site with large hematoma
   20x25cm with small area of induration 6cm x 3cm at center.  No fem
   bruit ascultated.
   Neurologic: A&Ox3.
   Labs / Radiology
   26.2 %
        [image002.jpg]
                             [**2184-6-18**]  11:26 PM
   Hct
   26.2
   Assessment and Plan
   73 year old woman with atrial fibrillation/flutter,  referred
   for atrial fibrillation ablation.  Pulmonary vein isolation complicated
   by femoral artery puncture.  Patient had large hematoma but good
   pulses.
   .
   Atrial Fibrillation/Flutter - s/p pulmonary vein isolation.  Currently
   in sinus rhythm.
   - restart coumadin tonight if hemodynamically stable
   - cont ASA today
   - monitor on tele
   - EKG today
   - follow-up EP rec's
   - will need follow-up with EP, Dr. [**Last Name (STitle) 5152**] in 1 week
   .
   Hypovolemic hypotension
 resolved MAPs improved s/p 2 units PRBC and
   3L of IVF.   Hct decreased overnight and patient hypotensive with low
   BP and poor UOP.
   - recheck hematocrit
   - monitor SBPs and MAPs >60.
   .
   Acute blood loss anemia/Groin hematoma
 [**3-15**] groin hematoma and small
   arterial puncture post-procedure.  pt s/p 2 units of PRBC. Coumadin and
   aspirin held overnight
   - monitor Hct q8hr.
   - will check CT A/P for RP bleed.
   - will obtain femoral ultrasound of right groin for AV fistula.
   - transfuse for hct< 27
   - maintain active type and cross
   - pressure dressing in place
   - will closely monitor exam, area outlined
   - pain control with ultram.
   .
   Hypertension - Restart home lisinopril when pressure permits
   .
   Bladder Spasms - Continue home oxybutynin.
   .
   GERD - Continue PPI.
   .
   FEN
 NPO while waiting for CT scan or Fem U/S.  Regular heart healthy
   diet, replete lytes prn.  Continue IVFS for volume resuscitation.
   .
   Access - PIVs
   .
   Code Status - Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-18**] 09:29 PM
   22 Gauge - [**2184-6-19**] 12:12 AM
   20 Gauge - [**2184-6-19**] 12:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-06-20 08:07:00 Physician Resident Progress Note
Chief Complaint: R groin AV fistula, pseudoaneurysm
   24 Hour Events:
   -s/p 2U PRBC, Hct 26.2->30.3->32.3->29.3
   -R femoral U/S showed complex pseudoaneurysm ? AV fistula
   -CTA confirmed AV fistula, no RP bleed
   -vasc [**Doctor First Name 213**] c/s - likely surgery [**Last Name (LF) **], [**First Name3 (LF) **] staff w/ vascular attg dr
   [**Last Name (STitle) **] sunday or [**Last Name (STitle) **]
   -per EP fellow, held coumadin O/N since INR 1.7, ASA OK
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: pain better controlled, denies dizziness,
   lightheadedness, palpitations
   Flowsheet Data as of  [**2184-6-20**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 66 (61 - 80) bpm
   BP: 119/60(74) {86/39(51) - 119/64(115)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,145 mL
                                                                     81 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  2,295 mL
                                                                     81 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,135 mL
                                                                    667 mL
   Urine:
                                                                  2,135 mL
                                                                    667 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                   -586 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese. Appears younger than stated age
   Eyes / Conjunctiva: NCAT PERRL
   Neck: JVP flat
   Cardiovascular: RRR, S1 & S2 normal  II/VI systolic border, loudist at
   left sternal border
   Peripheral Vascular: 2+ DP and PT bilat.
   Chest: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: no c/c/e. wwp.  Right groin site with large hematoma
   20x25cm with small area of induration 6cm x 3cm at center.  No fem
   bruit ascultated.
   Neurologic: A&Ox3.
   Labs / Radiology
   196 K/uL
   10.3 g/dL
   102 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   7 mg/dL
   110 mEq/L
   138 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2184-6-18**]  11:26 PM
                             [**2184-6-19**]  09:35 AM
                             [**2184-6-19**]  02:45 PM
                             [**2184-6-19**]  08:32 PM
                             [**2184-6-20**]  02:14 AM
   WBC
   6.4
   6.0
   Hct
   26.2
   30.3
   32.3
   29.2
   29.6
   Plt
   186
   196
   Cr
   0.7
   0.6
   Glucose
   102
   102
   Other labs: PT / PTT / INR:17.1/28.0/1.6, Differential-Neuts:54.6 %,
   Lymph:35.6 %, Mono:6.7 %, Eos:2.9 %, Albumin:3.0 g/dL, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73 year old woman with atrial fibrillation/flutter,  referred for
   atrial fibrillation ablation.  Pulmonary vein isolation complicated by
   femoral artery puncture.  Patient had large hematoma but good pulses.
   .
   # Atrial Fibrillation/Flutter - s/p pulmonary vein isolation.
   Currently in sinus rhythm.
   - restart coumadin after Av fistula management
   - cont ASA
   - monitor on tele
   - follow-up EP rec's
   - will need follow-up with EP, Dr. [**Last Name (STitle) 5152**] in 1 week
   .
   # AV Fistula
 complication of
   .
   # Hypovolemic hypotension
 resolved MAPs improved s/p 2 units PRBC and
   3L of IVF.   Hct decreased overnight and patient hypotensive with low
   BP and poor UOP.
   - recheck hematocrit
   - monitor SBPs and MAPs >60.
   .
   Acute blood loss anemia/Groin hematoma
 [**3-15**] groin hematoma and small
   arterial puncture post-procedure.  pt s/p 2 units of PRBC. Coumadin and
   aspirin held overnight
   - monitor Hct q8hr.
   - will check CT A/P for RP bleed.
   - will obtain femoral ultrasound of right groin for AV fistula.
   - transfuse for hct< 27
   - maintain active type and cross
   - pressure dressing in place
   - will closely monitor exam, area outlined
   - pain control with ultram.
   .
   Hypertension - Restart home lisinopril when pressure permits
   .
   Bladder Spasms - Continue home oxybutynin.
   .
   GERD - Continue PPI.
   .
   FEN
 NPO while waiting for CT scan or Fem U/S.  Regular heart healthy
   diet, replete lytes prn.  Continue IVFS for volume resuscitation.
   .
   Access - PIVs
   .
   Code Status - Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-18**] 09:29 PM
   22 Gauge - [**2184-6-19**] 12:12 AM
   20 Gauge - [**2184-6-19**] 12:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2184-06-21 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hct stable, BP stable in 120's systolic.
   - awaiting vascular surgery for ? AV fistula repair tomorrow. Vasc
   surgery left note in pm, plan is for surgery in pm on [**6-21**]. Continue
   ASA, hold coumadin
   - got extra dose of dilaudid for pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-6-20**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-21**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 75 (65 - 75) bpm
   BP: 116/61(74) {100/39(56) - 129/79(90)} mmHg
   RR: 21 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    750 mL
                                                                     63 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,327 mL
                                                                    460 mL
   Urine:
                                                                  2,327 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,577 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GEN: comfortable, NAD
   NECK: no JVD
   CV: reg rate nl S1S2 III/VI SEM @ LUSB
   PULM: CTAB no w/r/r
   ABD: soft NTND normoactive BS
   EXT: warm, dry +DP/PT pulses bilat, large resolving, partially
   indurated, hematoma in right groin
   SKIN: RLE eccymosis at groin
   Labs / Radiology
   196 K/uL
   10.3 g/dL
   102 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   7 mg/dL
   110 mEq/L
   138 mEq/L
   30.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2184-6-18**]  11:26 PM
                             [**2184-6-19**]  09:35 AM
                             [**2184-6-19**]  02:45 PM
                             [**2184-6-19**]  08:32 PM
                             [**2184-6-20**]  02:14 AM
                             [**2184-6-20**]  01:36 PM
   WBC
   6.4
   6.0
   Hct
   26.2
   30.3
   32.3
   29.2
   29.6
   30.4
   Plt
   186
   196
   Cr
   0.7
   0.6
   Glucose
   102
   102
   Other labs: PT / PTT / INR:17.1/28.0/1.6, Differential-Neuts:54.6 %,
   Lymph:35.6 %, Mono:6.7 %, Eos:2.9 %, Albumin:3.0 g/dL, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73F with AF s/p PVI s/b femoral artery puncture, groin hematoma, AV
   fistula, pseudoaneurysm formation
   .
   #Groin Hematoma
 hemodynamically stable; required 2 units pRBCs 2 days
   ago; hct as otherwise been stable; no evidence RP bleed by CT
   -vascular surgery to repair this morning
   -monitor Hct q12h
   -active T&C, xfuse for Hct<27%
   -serial exams until surgery
   -dilaudid, ativan prn
   .
   #AF s/p PVI - currently in SR
   -cont ASA
   -holding coumadin prior to surgery
   -telemetry
   .
   #AV Fistula/pseudoaneurysm
   -appreciate vascular [**Doctor First Name 213**] involvement, operative repair this AM
   -holding coumadin
   -NPO currently
   .
   #Hypertension
 well-controlled
   -cont outpatient regimen, hold if unstable
   .
   #Bladder Spasms
   -cont oxybutynin
   .
   #GERD
   -cont PPI
   .
   #FEN
 NPO currently
   .
   #Access
 PIV x 3
   .
   #Code Status - Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-6-19**] 12:12 AM
   20 Gauge - [**2184-6-19**] 12:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: